US07799096B2
Preparation of 3-bromo-5-[(dimethylamino)methyl]-4-hydroxybenzaldehyde (A6)
22.8 g (0.19 mol) of a 40% aqueous dimethylamine solution were added to 15.2 g (0.19 mol) of a 37% aqueous formaldehyde solution in 110 ml of ethanol. Then 25.0 g (0.12 mol) of 3-bromo-4-hydroxybenzaldehyde were added thereto. The reaction mixture was refluxed for 30 minutes and then stirred for 24 hours at room temperature. The batch was stored overnight at 0 to 5° C. in the refrigerator. The precipitated white solid was filtered out and dried.

reactant | dimethylamine | CNC | C2H7N
reactant | formaldehyde | C=O | CH2O
reactant | 3-bromo-4-hydroxybenzaldehyde | 0.12 mol, 25.0 g | BrC=1C=C(C=O)C=CC1O | C7H5BrO2
solvent | ethanol | 110 ml | C(C)O | C2H6O
product | 3-bromo-5-[(dimethylamino)methyl]-4-hydroxybenzaldehyde | BrC=1C=C(C=O)C=C(C1O)CN(C)C | C10H12BrNO2
